US05965582
[1-(4-fluorobenzyl)indole-3-yl]acetic acid-(4-fluorobenzyl)ester
100 ml dimethylsulfoxide (DMSO) are added to a three-necked flask under an N2 atmosphere, 2.1 g sodium hydride (mineral oil suspension) are added with vigorous stirring and treated dropwise with a solution of 5 g (17.8 mmol) indole-3-acetic acid in 50 ml DMSO. 2.58 g (35.6 mMol) 4-fluorobenzyl chloride are added with further stirring. After 12 hours at 25° C. the reaction mixture is added to 300 ml water and extracted with ether. The organic phase is dried and the solvent is removed under reduced pressure. The residue is purified by column chromatography on silica gel.

reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | indole-3-acetic acid | 17.8 mmol, 5 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 4-fluorobenzyl chloride | 35.6 mMol, 2.58 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | 300 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | [1-(4-fluorobenzyl)indole-3-yl]acetic acid-(4-fluorobenzyl)ester | FC1=CC=C(COC(CC2=CN(C3=CC=CC=C23)CC2=CC=C(C=C2)F)=O)C=C1 | C24H19F2NO2
